US08686018B2
5-chloro-1,3-dimethyl-1H-pyrazole-4-carbaldehyde (500.0 mg, 0.00315 mol), 3,4-dichlorophenol (565 mg, 0.00344 mol) and potassium hydroxide (265 mg, 0.00472 mol) were stirred in DMF (2.0 mL). Mixture was heated at 150° C. for 20 min using microwave. Water was added and resulting mixture was extracted with ethyl acetate. Organic layer was washed with brine twice, dried over MgSO4 and evaporated. The resulting oil was purified by column chromatography (10% to 20% ethyl acetate/heptane) to give 5-(3,4-dichlorophenoxy)-1,3-dimethyl-1H-pyrazole-4-carbaldehyde (492 mg, 54.7%) as white solid. Step 2:

reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 0.00315 mol, 500.0 mg | ClC1=C(C(=NN1C)C)C=O | C6H7ClN2O
reactant | 3,4-dichlorophenol | 0.00344 mol, 565 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium hydroxide | 0.00472 mol, 265 mg | [OH-].[K+]
reactant | Water | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-(3,4-dichlorophenoxy)-1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 492 mg, 54.7% | ClC=1C=C(OC2=C(C(=NN2C)C)C=O)C=CC1Cl | C12H10Cl2N2O2
